US08426604B2
1-(3-Chloro-5-trifluoromethyl-pyridin-2-ylmethyl)-1H-indazole-5-carbaldehyde was prepared from 2-Bromomethyl-3-chloro-5-trifluoromethyl-pyridine and 1H-indazole-5-carbaldehyde following General Procedure A.

reactant | 2-Bromomethyl-3-chloro-5-trifluoromethyl-pyridine | BrCC1=NC=C(C=C1Cl)C(F)(F)F | C7H4BrClF3N
reactant | 1H-indazole-5-carbaldehyde | N1N=CC2=CC(=CC=C12)C=O | C8H6N2O
product | 1-(3-Chloro-5-trifluoromethyl-pyridin-2-ylmethyl)-1H-indazole-5-carbaldehyde | ClC=1C(=NC=C(C1)C(F)(F)F)CN1N=CC2=CC(=CC=C12)C=O | C15H9ClF3N3O
